US06207678B1
Sodium borohydride (5 g) was added in two portions, over 40 minutes, to an ice-cooled solution of 2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propan-1-al (53.5 g) (see Preparation 14) in ethanol (300 ml). The mixture was stirred for a further 30 minutes before removing the solvent under reduced pressure to give a residue. This was suspended in water (200 ml), cooled to 0° C. and the mixture acidified (pH<6) with glacial acetic acid. Dichloromethane was added and the aqueous phase basified (pH>8) by addition of solid sodium carbonate. A further amount of dichloromethane (200 ml) was added and the organic and aqueous phases separated. The aqueous phase was further extracted with dichloromethane (200 ml). The organic phases were combined, washed with brine, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give 2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propan-1-ol (54.6 g) as a yellow oil.

reactant | Sodium borohydride | 5 g | [BH4-].[Na+]
reactant | 2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propan-1-al | 53.5 g | ClC=1C=C(C=CC1Cl)C(C=O)CC1OCCO1 | C12H12Cl2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-(3,4-dichlorophenyl)-3-(1,3-dioxolan-2-yl)propan-1-ol | 54.6 g | ClC=1C=C(C=CC1Cl)C(CO)CC1OCCO1 | C12H14Cl2O3
